US05817766
A solution of 3.17 g (8.78 mmol) of rac-3,4-Dihydro-5-hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol in 60 mL of anhy. DMF (Aldrich) was added to a suspension of 383 mg (1 eq) of sodium hydride (Aldrich) in 20 mL of anhy. DMF (Aldrich) and the mixture stirred at RT under argon for 0.5 hr. 2.28 mL (1 eq.) of tert-butylchlorodiphenylsilane (Aldrich) was then added by syringe. After stirring for 2 hr at RT the reaction was diluted with EtOAc, washed with 0.1N aq. HCl, water, sat. aq. NaCl, dried and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with 30% EtOAc-hexane. The fractions containing the product were combined and evaporated under reduced pressure to give 2.23 g (45%) of 5-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-3,4-dihydro-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol as a pale yellow oil. HR EI MS: Calc M+, 558.3530; Observed, 558.3516.

reactant | rac-3,4-Dihydro-5-hydroxy-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol | 8.78 mmol, 3.17 g | OC1=CC(=CC2=C1C(C(C(O2)(C)C)CCCO)C)CCCCC | C20H32O3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium hydride | 383 mg, 1 eq | [H-].[Na+]
reactant | tert-butylchlorodiphenylsilane | 2.28 mL, 1 eq. | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-3,4-dihydro-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol | 2.23 g, 45% | CC(C)(C)[Si](OC1=CC(=CC2=C1C(C(C(O2)(C)C)CCCO)C)CCCCC)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H50O3Si
